US09447114B2
To a solution of 3-(3-(tert-butyldimethylsilyloxy)propyl)-1,5-dimethylthieno[2,3-d]pyrimidine-2,4(1H,3H)-dione (3.0 g, 8.14 mmol) in DCM (30 mL) at 0° C. was added NBS (1.6 g, 8.95 mmol). The reaction was stirred at 0° C. for 2 h then diluted with DCM (100 mL) and washed with water (2×50 mL). The organic layer was dried over Na2SO4 and concentrated to a residue which was purified by chromatography PE/EA (1:1) to give 6-bromo-3-(3-(tert-butyldimethylsilyloxy) propyl)-1,5-dimethylthieno[2,3-d]pyrimidine-2,4(1H,3H)-dione (3.4 g, 93.4% yield) as a white solid. LCMS: MH+ 448 and TR=2.917 min.

reactant | 3-(3-(tert-butyldimethylsilyloxy)propyl)-1,5-dimethylthieno[2,3-d]pyrimidine-2,4(1H,3H)-dione | 8.14 mmol, 3.0 g | [Si](C)(C)(C(C)(C)C)OCCCN1C(N(C2=C(C1=O)C(=CS2)C)C)=O | C17H28N2O3SSi
reactant | NBS | 8.95 mmol, 1.6 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | 6-bromo-3-(3-(tert-butyldimethylsilyloxy) propyl)-1,5-dimethylthieno[2,3-d]pyrimidine-2,4(1H,3H)-dione | 3.4 g, 93.4% yield | BrC1=C(C2=C(N(C(N(C2=O)CCCO[Si](C)(C)C(C)(C)C)=O)C)S1)C | C17H27BrN2O3SSi
